US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0295 g, 0.0639 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0530 mL, 0.383 mmol) and 4-chlorobenzenesulfonyl chloride (0.0400 g, 0.192 mmol) to obtain 4-(4-chlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0167 g, yield 41%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0639 mmol, 0.0295 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.383 mmol, 0.0530 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 0.192 mmol, 0.0400 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(4-chlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0167 g, yield 41% | ClC1=CC=C(C=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H34ClN3O6S
